US04837327
A 6 ounce Fisher-Porter bottle was charged with 10.0 g (250 mmol) of sodium hydroxide, 13 mL of water, 15 mL of paradioxane, and 5.5 mL (54 mmol) of thiophenol. The bottle and overhead system were closed, the rapidly stirred mixture was heated to 60°-70° C. by means of an oil bath, and the system was charged to 50 psig with chlorodifluoromethane. Heating was continued for 1 hour, during which time the pressure gradually decreased and the system was occasionally recharged to 50 psig with chlorodifluoromethane. After cooling to room temperature, the system was opened and the reaction mixture was treated with 50 mL of water and 25 mL of diethyl ether. Filtration through glass wool paper followed by removal of the ether layer afforded an aqueous solution that was extracted with three 15 mL portions of diethyl ether. The ether layers were combined and concentrated in vacuo to give a residue which was dissolved in 50 mL of pentane. The pentane solution was washed with five 10 mL portions of water, dried (MgSO4), and concentrated in vacuo. Short path distillation of the residue gave 5.88 g (69% yield) of difluoromethyl phenyl sulfide: bp 24°-26° C. (1 torr): 1H NMR (CDCl3) 6.80 (t, 1H, JHF =57 Hz), 7.30-7.68 (m, 5H).

reactant | sodium hydroxide | 250 mmol, 10.0 g | [OH-].[Na+]
reactant | thiophenol | 54 mmol, 5.5 mL | C1(=CC=CC=C1)S | C6H6S
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | pentane | 50 mL | CCCCC | C5H12
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | water | 50 mL | O | H2O
solvent | paradioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | water | 13 mL | O | H2O
product | difluoromethyl phenyl sulfide | 5.88 g, 69% yield | C1(=CC=CC=C1)SC(F)F | C7H6F2S
